Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
"My friend died 3 weeks ago."
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Ms ___ is a ___ yo F with a PMHx significant for depression 
and ADHD who arrived via EMS and presents s/p SA in the setting 
of worsening depression and multiple psychosocial stressors 
(recent death of her friend and dissatisfaction with academic 
major).

On interview, she reports that her friend died 3 weeks ago. She 
states that he jumped off the roof of a building.  She states 
that she has had thoughts of suicide before, but his death has 
made it worse. She states that this morning she woke up at 
2:30pm and did not feel like attending class.  She states she 
then lay in bed and listened to music until 6:00pm when she 
began to take the pills from two old prescription bottles.  She 
states she received the pills in ___ from her PCP to help 
with muscle strain. As she was taking the medications she felt 
that it wasn't enough medication to kill her and stated that 
"sucked".  She is ambivalent about whether she would have taken 
more pills if available, but states she took all of her 
medication and that she took 6 orphenidrine and 10 tabs 
meloxicam.    

She also endorsing engaging in self-injurious behavior for the 
first time on ___ and demonstrates superficial cutting to 
her forearms to this clinician.  She states that on ___, 
she realized that when she drinks it amplifies what she is 
feeling and that it worsened her depression.  She states that 
she "had a complete break" that day and her friend had to hold 
her when she
cried outside.  She states after she became more calm she 
returned to her room, but states she later lost it when her 
friend ___ her "I'm going to bed, goodnight".  She states she 
doesn't know what she wanted, but that she didn't want to be 
alone.  She describes her self-injurious behavior as "an 
instinct" and describes it as scary. 

She denies academic stress, but notes dissatisfaction with her 
major.  She states that right now her major is ___ science, 
but she is switching to public relations. She states that she 
likes it enough (computer science) and she is good at it, but 
doesn't want to have a career that she doesn't care about.  

She states she is an only child and notes an overall good 
relationship with her parents though she states they sometimes 
fight.  She denies feeling comfortable talking about her mental 
health issues with her parents and describes her college friends 
as her first close confidantes.

Psychiatric ROS: 
Depression -  endorses hopelessness, guilt, changes in appetite 
(eating 2 meals/day, but try to get 2), and sleep disturbances 
(circadian rhythm disturbance - 8 hours), endorses anergia and 
not wanting to leave the house. denies anhedonia, fatigue, and 
difficulty concentrating
Psychosis - denies symptoms including delusions (persecutory, 
grandiose, thought broadcasting/insertion/withdrawal) or 
hallucinations (auditory, visual, olfactory, or tactile). 
Mania- endorses ___ without fatigue previously, denies overt 
symptoms of mania including periods of elevated mood or 
irritability, marked increases in goal-directed behavior, racing 
thoughts, a decreased need for sleep, or social/economic 
indiscretion 
Anxiety - endorses panic attacks (last right before 
presentation) denies agoraphobia. 

___ DOB: ___ - transferred to ___ ED after 
writing a suicide note stating "life sucks, fuck it all, I'm 
killing myself".  She reports taking 20 pills of muscle relaxers 
and something else (medications: Orphenadrine ER 10 mg (20 pills 
in bottle), meloxicam 15 mg (20 pills in bottle)). ___ police 
department was called when the roommates reported that she was 
erratic and she reported that she was in the middle of 
attempting to end her life.  She endorsed to ___ that 
she took as many pills as she could find with the intention of 
ending her life and she was unwilling to be transported to the 
___ ED and had to be restrained.

Collateral ___, ___ Dr. ___ was 
provided with permission to speak with Ms ___ mother ___.  
She updated ___ mother with elements of the patient's 
presentation including her report of self-harm and suicide 
attempt tonight.  After updating ___ mother she asked many 
times why should would not be appropriate for an outpatient 
level of care, but after
psychoeducation expressed understanding of her acutely elevated 
level of risk for self-harm/suicide.  She also expressed 
understanding that the need to prevent the potentially fatal 
outcome of suicide far outweighed the benefit of having Ms. 
___ return to school.  Ms ___ mother was very concerned 
patient would be missing the final two weeks of school and 
expressed these concerns >20 times during the course of 
conversation and also asked many questions regarding what the 
transition back to school would look like.  She was redirected 
that the return to school would be a transition helped by ___
behavioral health and the inpatient team during hospitalization 
and expressed understanding of the need to call ___ to determine 
the transition back to school.  She was in understanding of this 
plan and stated she would follow up with her daughter.
 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
Dx: "clinical depression" - ___ years old, ADHD ___ years old 
(does not believe ADHD)
Hospitalizations: IOP - ___ years (told her mother she wanted to 
kill herself)
Current treaters and treatment:  None
Medication and ECT trials: sertraline (didn't do anything), 
adderall, ritalin, vyvanse, concerta, wellbutrin 
Self-injury/Suicide attempts: As per HPI, SIB - superficial cuts 
to forearms first on ___, with scissors (states she gave
them to her friend ___ years ago) 
Harm to others: Denies 
Access to weapons: Denies access to a gun or knives 
Trauma: IOP - flashbacks, denies nightmares, denies other trauma

PAST MEDICAL HISTORY:
None 
 
Social History:
SUBSTANCE ABUSE HISTORY:
EtOH: "this semester more than usual", drinking every weekend 
___ drinks, denies blackouts, denies concerns about EtOH use 
disorder
Illicits: denies, remote MJ (like 3 times)
Tobacco: denies
Caffeine: 1 cup occasionally 

FORENSIC HISTORY:
___
SOCIAL HISTORY:
___
Family History:
FAMILY PSYCHIATRIC HISTORY:
___ Dx: mother - ?depression 
___: None 
___ Treatment Hx/Med Trials: None 
___ Hx Suicide: None 
 
Physical Exam:
VS: BP= 127/73, HR= 70, T= 97.9, RR= 16, SaO2= 99% on RA
 * General: NAD. Well-nourished, well-developed. Appears stated 
age.
 * HEENT: Normocephalic. PERRL, EOMI. Oropharynx clear.
 * Lungs: Clear to auscultation bilaterally. No crackles or 
wheezes.
 * CV: Regular rate and rhythm. No murmurs/rubs/gallops. 2+ 
pedal pulses.
 * Abdomen: Soft, nontender, nondistended.
 * Extremities: No clubbing, cyanosis, or edema.
 * Skin: Bilateral forearm lacerations from scissors (as 
reported by pt); no stitches. Warm and dry. 

 Neurological:
   *Cranial Nerves:
        I: Not tested.
        II: Pupils equally round and reactive to light 
bilaterally. Visual fields are full to confrontation.
       III, IV, VI: Extraocular movements intact bilaterally 
without nystagmus.
       V, VII: Facial strength and sensation intact 
andsymmetric.
       VIII: Hearing intact to voice.
       IX, X: Palatal elevation symmetrical.
       XI: Sternocleidomastoid and trapezius normal bilaterally.
       XII: Tongue midline without fasciculations.
   *Motor- Normal bulk and tone bilaterally. No abnormal 
movements, no tremor. Strength full power ___ throughout. No 
gross focal motor or sensory deficits, normal gait.
   *Coordination: Normal on finger-nose-finger and heel-to-shin.
   *Sensation: Intact to light touch. 
   *Gait: Steady. No truncal ataxia. Normal stance and posture.

 NEUROPSYCHIATRIC EXAMINATION:
 * Appearance: NAD. Appears stated age. Wearing scrub pants, 
gown, and hoodie. Bilateral forearm lacerations (cuts from 
scissors). 
 * Behavior: Appropriate with good eye contact, and she is 
cooperative with interview.
 * Orientation: Oriented to self, location, and date.
 * Mood: "Scared about being here," "Better," "Not desperate."
 * Affect: Dysphoric, anxious, and congruent to stated mood, 
full range, tearful at times. 
 * Thought Process: Logical and goal directed. No loosening of 
associations. No apparent disorganization.
 * Thought Content: Focused on wanting to go back to school and 
be with friends. ___ current suicidal thoughts, plans, and 
actions. Denies HI. Free of any evidence of psychosis.
 * Judgment: Poor.
 * Insight: Poor.
 * Speech: Spontaneous. Normal conversational volume, tone, 
rate,and prosody.

 COGNITION:
 * Memory: Registration ___. Recall ___. Remote memory intact.
 * Abstraction: Apple/orange = fruits.
 * Proverb: When asked what it means to say, "The grass is 
always greener on the other side," patient responds, "From your 
perspective, things that other people have will always look 
better to you."
 * Calculation: $1.75 = 7 quarters.
 * Fund of knowledge: Names ___ presidents.
 * Attention span: Correctly listed MOYB without error.
 * Language: Fluent ___ speaker. No apparent paraphasic 
errors.
 
Pertinent Results:
___ 08:57PM   GLUCOSE-81 UREA N-6 CREAT-0.8 SODIUM-141 
POTASSIUM-3.8 CHLORIDE-106 TOTAL CO2-23 ANION GAP-16
___ 08:57PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 08:57PM URINE  UCG-NEGATIVE
___ 08:57PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 08:57PM   WBC-10.6* RBC-4.62 HGB-13.1 HCT-41.4 MCV-90 
MCH-28.4 MCHC-31.6* RDW-12.9 RDWSD-42.2
___ 08:57PM   NEUTS-69.8 ___ MONOS-4.5* EOS-1.3 
BASOS-0.6 IM ___ AbsNeut-7.38* AbsLymp-2.47 AbsMono-0.48 
AbsEos-0.14 AbsBaso-0.06
___ 08:57PM   PLT COUNT-295
 
Brief Hospital Course:
SAFETY: Patient was placed on 15 minute checks on admission and 
remained here on that level of observation throughout. She was 
unit restricted.  There were no acute safety issues during this 
hospitalization.

LEGAL: ___
PSYCHIATRIC:
On admission, patient described herself as desperate, and was 
sad/tearful during interviews. She quickly bounced back, 
indicating that her mood had improved and focused on wanting to 
get better and get her work done. During interviews with the 
team, it was suggested to the patient that she may be showing 
symptoms of hypomania or borderline personality disorder, and 
she noted that these symptoms seemed accurate to her. She agreed 
to start taking lamotrigine, and underwent ___ testing to 
clarify diagnosis where she scored in the depression, anxiety, 
and borderline personality scales. She noted some chronic 
passive suicidal ideation, though denied any on the day of 
discharge. Lamotrigine was started at 25 mg daily, and left at 
that dose until discharge. 
Pt did well during her admission.  She felt good at time of d/c, 
had no acute complaints, was highly future oriented and denied 
suicidal thoughts.  She was interactive, bright and motivated on 
the unit.  ___ agreed to aftercare and also understood the 
warning signs that would necessitate coming back to the ED and 
agreed to f/u as recommended. 

MEDICAL:
The patient had no known medical problems requiring attention 
during this stay. 

PSYCHOSOCIAL:
1) GROUPS/MILIEU: Patient was encouraged to participate in 
unit’s groups, milieu, and therapy opportunities. Usage of 
coping skills, mindfulness, and relaxation methods were 
encouraged. Therapy addressed family, social and school issues. 
The patient enjoyed groups and participated.

2) COLLATERAL CONTACTS:
-Family-
Mother - ___

3) FAMILY INVOLVEMENT:
The patient's progress was discussed with her mother by phone. 
No family meeting was held as they were in ___ and did not 
travel to ___.  The family were supportive from their remote 
location, understood reasons for pt's admission and also were 
informed of warning signs necessitating reaching out for help / 
calling 911 in the future.   

4) INTERVENTIONS:
INFORMED CONSENT:
-Lamotrigine
The Team discussed the indications for, intended benefits of, 
and possible side effects and risks of this medication, and 
risks and benefits of possible alternatives, including not 
taking the medication, with this patient.  We discussed the 
patient's right to decide whether to take this medication as 
well as the importance of the patient's actively participating 
in the treatment and discussing any questions about medications 
with the treatment team, and I answered the patient's questions. 
 The patient appeared able to understand and consented to begin 
the medication.  

RISK ASSESSMENT:

Low imminent risk of harm/violence to self/others.

1) Chronic/Static Risk Factors:
Chronic and severe mental illness, prior suicide attempts, 
organic CNS damage, male sex, history of trauma/abuse, family 
history of suicide, chronic medical illness, 
impulsive/aggressive tendencies

2) Modifiable Risk Factors:
-Acute major mood episode- Modified by medication adjustments
-Hopelessness - Modified by encouraging social supports such as 
friends
-Recent school/social stressors - Modified by encouraging 
development of improved coping skills 
-Supports - Modified by identifying outpatient treatment 
providers for the patient to see in follow-up 
-Chronic suicidal ideation - Modified by encouraging development 
of better coping skills

3) Protective Factors:
Protective factors include current outpatient 
providers/treatment, strong connections to family and community 
support, and skills in problem solving, conflict resolution and 
handling problems in a non-violent way. Current risk is 
low/moderate for intentional self-harm given that patient denies 
suicidal ideation, intent and plan, is accepting of treatment, 
is currently sober and is future oriented with plans 

PROGNOSIS:
Good due to the fact that patient is help-seeking, and has been 
looking for on-campus counseling. She is future oriented and 
motivated to get better so will be likely to continue with 
proper follow-up. 

 
Medications on Admission:
none
 
Discharge Medications:
1. LamoTRIgine 25 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Unspecified depressive disorder
Unspecified anxiety disorder
traits consistent with borderline personality

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

*Appearance: Young woman with hair dyed red, appears stated age, 
wearing shirt and scrub pants
*Behavior: Involved and engaged during interview, making good 
eye contact, polite.
*Mood and Affect: Mood was 'good'. She was euthymic and 
expressive during the interview.
*Speech: Normal rate, rhythm, volume, prosody, and articulation. 
Fluent in ___. 
*Thought process: Linear and goal-directed. No loosening of 
associations. 
*Thought Content: She is feeling, well and is anxious about 
returning to school. She is concerned about her classes this 
semester and making sure she can make up the work 
appropriately/get excused from work. Concerned about getting 
back to her friends. ___ SI/HI and AVH. 
*Judgment and Insight: She has good insight, noting that the
team's description of how she is 'doesn't sound inaccurate' and
thus is willing to try our treatment recommendations. Her
judgment is fair given how she ended up hospitalized, though she
is making good choices while inpatient, and has a history of 
trying to get help from services on campus.  
* Cognition: Awake, alert, appeared attentive throughout 
interview. Memory intact to recent and remote events.

 
Discharge Instructions:
You were hospitalized at ___ for suicidal ideation.  We 
adjusted your medications, and you are now ready for discharge 
and continued treatment in partial program.

-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___